US05684034
Using the procedure described in Example 2, Part B, 2.18 g (7.5 mmol) of 5-ethoxycarbonyl-2-methyl-1H-indole-3-acetic acid ethyl ester was reacted with 320 mg (8 mmol) of 60% NaH/mineral oil and 1.0 mL (8.4 mmol) of benzyl bromide to give after silica chromatography (25% ether/hexane→50% ether/hexane) 1.6 g (56%) of 5-ethoxycarbonyl-2-methyl-1-(phenylmethyl)-1H-indole-3-acetic acid ethyl ester.

reactant | 5-ethoxycarbonyl-2-methyl-1H-indole-3-acetic acid ethyl ester | 7.5 mmol, 2.18 g | C(C)OC(CC1=C(NC2=CC=C(C=C12)C(=O)OCC)C)=O | C16H19NO4
reactant | NaH | 8 mmol, 320 mg | [H-].[Na+]
reactant | benzyl bromide | 8.4 mmol, 1.0 mL | C(C1=CC=CC=C1)Br | C7H7Br
product | 5-ethoxycarbonyl-2-methyl-1-(phenylmethyl)-1H-indole-3-acetic acid ethyl ester | 1.6 g | C(C)OC(CC1=C(N(C2=CC=C(C=C12)C(=O)OCC)CC1=CC=CC=C1)C)=O | C23H25NO4
